US04210655
Analogously to Example 10, 8.0 g of 1-acetyl-4-(2-benzofuranyl)-piperidine in 100 ml of tetrahydrofuran is reduced with 12.0 g of lithium aluminium hydride in 150 ml of tetrahydrofuran, whereby the reaction mixture is refluxed for 15 hours. The crude 1-ethyl-4-(2-benzofuranyl)-piperidine obtained is converted into the hydrochloride which, after recrystallisation from ethyl acetate, melts at 198°.

reactant | 1-acetyl-4-(2-benzofuranyl)-piperidine | 8.0 g | C(C)(=O)N1CCC(CC1)C=1OC2=C(C1)C=CC=C2 | C15H17NO2
reactant | lithium aluminium hydride | 12.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-ethyl-4-(2-benzofuranyl)-piperidine | C(C)N1CCC(CC1)C=1OC2=C(C1)C=CC=C2 | C15H19NO
